US09120749B2
tert-butyl (1-(5-((3-acetyl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate
Following general procedure M, tert-butyl (1-(5-((3-acetyl-6-bromoquinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate (80 mg, 0.15 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (72 mg, 0.25 mmol) to afford the desired product (94 mg, 100%) as a brown solid. ESI MS m/z 622 [C32H33Cl2N5O4+H]+

reactant | tert-butyl (1-(5-((3-acetyl-6-bromoquinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate | 0.15 mmol, 80 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CC1)N(C(OC(C)(C)C)=O)C)Br | C26H30BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.25 mmol, 72 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | tert-butyl (1-(5-((3-acetyl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate | 94 mg, 100% | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CC1)N(C(OC(C)(C)C)=O)C)C1=CC(=C(C(=C1)Cl)O)Cl | C32H33Cl2N5O4
